US07968538B2
N-(5-Fluoro-2-(methylsulfonyl)phenyl)naphthalen-1-amine
Naphthalen-1-amine (0.89 g, 4.7 mmol) and 60% NaH in oil (0.24 g, 6.1 mmol) were stirred in N,N-dimethylformamide (5 mL) for 15 min. at 0° C. and for 30 min. at room temperature. 2,4-Difluoro-1-(methylsulfonyl)benzene (0.67 g, 4.7 mmol), was added to the reaction as a solid. The reaction was allowed to stir at room temperature for 16 h. The reaction was poured in water and extracted with ether. After removal of solvent the crude was purified on silica chromatography in 10% ethyl acetate in hexanes to obtain 0.56 g of product (0.36 mg, 38% yield). 1H NMR (400 MHz, CDCl3): δ 8.30 (s, 1H), 7.89 (m, 3H), 7.54 (m, 5H), 6.79 (t, 1H), 6.48 (d, 1H), 3.22 (s, 3H).

reactant | Naphthalen-1-amine | 4.7 mmol, 0.89 g | C1(=CC=CC2=CC=CC=C12)N | C10H9N
reactant | NaH | [H-].[Na+]
reactant | 2,4-Difluoro-1-(methylsulfonyl)benzene | 4.7 mmol, 0.67 g | FC1=C(C=CC(=C1)F)S(=O)(=O)C | C7H6F2O2S
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(5-Fluoro-2-(methylsulfonyl)phenyl)naphthalen-1-amine | 0.56 g, 38% yield | FC=1C=CC(=C(C1)NC1=CC=CC2=CC=CC=C12)S(=O)(=O)C | C17H14FNO2S
